US07592477B2
Step a) Formation of N-(4-dec-1-ynylbenzyl)-N-{1-[4-(trifluoromethyl)phenyl]ethyl}amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-dec-1-ynylbenzaldehyde and 1-[4-(trifluoromethyl)phenyl]ethanamine gave the title compound as a colorless oil (54%). M+(ESI): 416.2. HPLC (Condition A), Rt: 4.67 min (HPLC purity: 87.6%).

reactant | 4-dec-1-ynylbenzaldehyde | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | 1-[4-(trifluoromethyl)phenyl]ethanamine | FC(C1=CC=C(C=C1)C(C)N)(F)F | C9H10F3N
product | N-(4-dec-1-ynylbenzyl)-N-{1-[4-(trifluoromethyl)phenyl]ethyl}amine | 54% | C(#CCCCCCCCC)C1=CC=C(CNC(C)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C26H32F3N
